US06995144B2
2-(1-Benzylpiperidin-4-yl)-1-(2-fluorophenyl)ethanol
After dissolving 1.64 ml of 1-bromo-2-fluorobenzene in 30 ml of tetrahydrofuran, the solution was cooled to −78° C. Next, 5.31 ml of n-butyllithium (2.6 M, n-hexane solution) was added dropwise while stirring, and after 1 hour, a solution of 2.50 g of 1-benzyl-4-piperidineacetaldehyde [CAS No.120014-32-6] in tetrahydrofuran (10 ml) was added and stirring was continued for 1 hour. After adding water to the reaction solution, the temperature was raised to room temperature and extraction was performed with ethyl acetate. The organic layer was washed With water and saturated brine in that order and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by NH silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (2.15 g, 60% yield).

reactant | 1-bromo-2-fluorobenzene | 1.64 ml | BrC1=C(C=CC=C1)F | C6H4BrF
reactant | n-butyllithium | 2.6 M, 5.31 ml | C(CCC)[Li]
reactant | 1-benzyl-4-piperidineacetaldehyde | 2.50 g | C(C1=CC=CC=C1)N1CCC(CC1)CC=O | C14H19NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(1-Benzylpiperidin-4-yl)-1-(2-fluorophenyl)ethanol | 2.15 g, 60% yield | C(C1=CC=CC=C1)N1CCC(CC1)CC(O)C1=C(C=CC=C1)F | C20H24FNO
